US04829067
A mixture of 3.0 g of methyl 5-chloro-3-formyl-2-hydroxybenzoate, 3.44 g of methyl α-bromophenylacetate, 8.28 g of potassium carbonate and 50 ml of dimethylformamide is heated at 70°-80° C. for 15 minutes and further heated at 100° C. for 10 minutes. After cooling, water is added to the mixture, and the aqueous mixture is acidified with 10% hydrochloric acid and then extracted with ethyl acetate. The extract is washed with an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is dissolved in 50 ml of ethanol, and 4.5 g of potassium hydroxide are added to the solution. The mixture is refluxed for 1 hour and then evaporated to remove solvent. Water is added to the residue, and the aqueous mixture is acidified with 10% hydrochloric acid and extracted with ethyl acetate. The extract is dried and evaporated to remove solvent. 150 ml of xylene and 30 mg of p-toluenesulfonic acid are added to the residue and the mixture is refluxed for 1 hour. The reaction mixture is evaporated to remove solvent and the residue is dissolved in ethyl acetate. The solution is washed, dried and evaporated to remove solvent. The residue is crystallized from isopropyl ether to give 2.32 g of 5-chloro-2-phenylbenzofuran-7-carboxylic acid.

reactant | methyl 5-chloro-3-formyl-2-hydroxybenzoate | 3.0 g | ClC=1C=C(C(=C(C(=O)OC)C1)O)C=O | C9H7ClO4
reactant | methyl α-bromophenylacetate | 3.44 g | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-phenylbenzofuran-7-carboxylic acid | 2.32 g | ClC=1C=C(C2=C(C=C(O2)C2=CC=CC=C2)C1)C(=O)O | C15H9ClO3
